US05288707
4-Bromo-1-butene (20.8 ml, 203.3 mMol) is reacted with catecholborane (24,4 g, 203,3 mMol) at 100° C. over 16 hr. The crude product is distilled in vacuo to give 4-bromo-butane-1-boronate as a white crystalline compound. (+)-Pinanediol (27.7 g, 163 mMol) is dissolved in THF and the above synthesized 4-bromo-butane-1-boronate (41.6 g, 163 mMol) is added. After 1 hr at room temperature, the THF is removed in vacuo and the residue is purified by flash chromatrography (90:10 hexane/EtOAc) to give (+)-pinanediol-4-bromo-butane-1-boronate as a colourless oil.

reactant | (+)-Pinanediol | 163 mMol, 27.7 g | C12(C(CCC(C1(C)C)C2)(C)O)O | C10H18O2
reactant | 4-bromo-butane-1-boronate | 163 mMol, 41.6 g | BrCCCCB([O-])[O-]
solvent | THF | C1CCOC1 | C4H8O
product | (+)-pinanediol 4-bromo-butane-1-boronate | C12(C(CCC(C1(C)C)C2)(C)O)O.BrCCCCB([O-])[O-] | InChI=1S/C10H18O2.C4H8BBrO2/c1-8(2)7-4-5-9(3,11)10(8,12)6-7;6-4-2-1-3-5(7)8/h7,11-12H,4-6H2,1-3H3;1-4H2/q;-2
